US08633207B2
To 2-(difluoro(5-fluoropyrimidin-2-yl)methyl)quinazolin-4-ol (190 mg, 0.65 mmol) was added phosphorous oxychloride (4 mL) and the mixture was heated at 95° C. for 2 h. The mixture was concentrated under reduced pressure, toluene was added, and the solution was again concentrated under reduced pressure. The residue was diluted with EtOAc and washed with saturated aq NaHCO3. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the residue was added a solution of 5-methyl-1H-pyrazol-3-amine (72 mg, 0.74 mmol), DIEA (0.14 mL, 0.78 mmol), and KI (40 mg, 0.24 mmol) in DMF (4 mL) and the mixture was stirred at rt overnight. AcOH (0.2 mL) was added and the mixture was purified by preparative HPLC (Varian diphenyl reverse phase column, eluted with gradient of solvent B=0.05% AcOH/ACN and solvent A=0.05% AcOH/H2O) to afford 2-(difluoro(5-fluoropyrimidin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine (80 mg, 32%). 1H NMR (300 MHz, DMSO-d6) δ 12.19 (br s, 1H), 10.72 (s, 1H), 9.13 (s, 2H), 8.70 (d, J=8.1 Hz, 1H), 7.78-8.01 (m, 2H), 7.66 (t, J=7.3 Hz, 1H), 5.94 (s, 1H), 2.18 (s, 3H); LC-MS (ESI) m/z 372 (M+H)+.

reactant | 2-(difluoro(5-fluoropyrimidin-2-yl)methyl)quinazolin-4-ol | 0.65 mmol, 190 mg | FC(C1=NC2=CC=CC=C2C(=N1)O)(C1=NC=C(C=N1)F)F | C13H7F3N4O
reactant | phosphorous oxychloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methyl-1H-pyrazol-3-amine | 0.74 mmol, 72 mg | CC1=CC(=NN1)N | C4H7N3
reactant | DIEA | 0.78 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | AcOH | 0.2 mL | CC(=O)O | C2H4O2
product | 2-(difluoro(5-fluoropyrimidin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine | 80 mg, 32% | FC(C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C)(C1=NC=C(C=N1)F)F | C17H12F3N7
